US06300501B1
Step 1: 2-Amino-β-methylphenethylamine
Reduction of 4-methyl-cinnoline (10 g, 69.5 mmol) in methanol (100 mL), using Raney nickel (3 g). The catalyst was removed and washed with methanol. The filtrate was treated with an excess of HCl in isopropanol; ether was then added and the solution cooled. The precipitate was filtered and dried; 9.4 g (60%).

reactant | 4-methyl-cinnoline | 69.5 mmol, 10 g | CC1=CN=NC2=CC=CC=C12 | C9H8N2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 2-Amino-β-methylphenethylamine | NC1=C(C(CN)C)C=CC=C1 | C9H14N2
